US04495182
To a suspension of 2-cyano-2-methoxycarbonylmethoxyiminoacetamidine acetate (495 g) in methanol (4.95 l) was dropped triethylamine (512.6 g) at -10° C. under stirring and cooling, and further, bromine (357.3 g) was added to the above mixture at the same temperature. After the reaction mixture was stirred for 15 minutes, a solution of potassium thiocyanate (216 g) in methanol (2.16 l) was dropped thereto at -10° to -5° C. under stirring, which was continued for 30 minutes at 0° to 5° C. The resulting precipitates were collected by filtration, washed with water (5 l) and dried to give 2-methoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetonitrile (syn isomer) (430 g), which was recrystallized from aqueous methanol, mp. 225° to 227° C. (dec.).

reactant | 2-cyano-2-methoxycarbonylmethoxyiminoacetamidine acetate | 495 g | C(C)(=O)O.C(#N)C(C(=N)N)=NOCC(=O)OC
reactant | triethylamine | 512.6 g | C(C)N(CC)CC | C6H15N
reactant | bromine | 357.3 g | BrBr | Br2
reactant | potassium thiocyanate | 216 g | [S-]C#N.[K+]
solvent | methanol | 4.95 l | CO | CH4O
solvent | methanol | 2.16 l | CO | CH4O
product | 2-methoxycarbonylmethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetonitrile | 430 g | COC(=O)CON=C(C#N)C1=NSC(=N1)N | C7H7N5O3S
